US07893004B2
Synthesis of 2-phenyl-4(1-methylethyl)oxazoline
L-Valinol (206 mg, 2 mmol), benzaldehyde (0.205 ml, 2 mmol), 250 mg of an oxidation catalyst and 4 ml of xylene as solvent were charged into a 100 ml three-neck flask, and were stirred at 150° C. for 67 hours under an oxygen atmosphere. The reaction mixture was filtered through a cotton plug, and then the oxidation catalyst was washed with ethyl acetate. After the filtrate was condensed with a rotary evaporator, the product was separated by silica gel column chromatography. A resulting colorless liquid was weighed and the yield thereof was defined as a reaction yield.

reactant | L-Valinol | 2 mmol, 206 mg | N[C@@H](C(C)C)CO | C5H13NO
reactant | benzaldehyde | 2 mmol, 0.205 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | xylene | 4 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-phenyl-4(1-methylethyl)oxazoline | C1(=CC=CC=C1)C=1OCC(N1)C(C)C | C12H15NO
